US07884210B2
{2-[3-Cyclopentylmethyl-3-(3-propionylamino-phenyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid
The title compound was prepared via {2-[3-cyclopentylmethyl-3-(3-propionylamino-phenyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid ethyl ester in a similar manner as described for the synthesis of {2-[3-cyclopentylmethyl-3-(3,4-difluoro-phenyl)-ureido]-thiazol-4-yl}-acetic acid, using N-(3-amino-phenyl)-propionamide, cyclopentanecarbaldehyde and (2-amino-thiazol-5-ylsulfanyl)acetic acid ethyl ester.

reactant | {2-[3-cyclopentylmethyl-3-(3-propionylamino-phenyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid ethyl ester | C(C)OC(CSC1=CN=C(S1)NC(=O)N(C1=CC(=CC=C1)NC(CC)=O)CC1CCCC1)=O | C23H30N4O4S2
reactant | {2-[3-cyclopentylmethyl-3-(3,4-difluoro-phenyl)-ureido]-thiazol-4-yl}-acetic acid | C1(CCCC1)CN(C(NC=1SC=C(N1)CC(=O)O)=O)C1=CC(=C(C=C1)F)F | C18H19F2N3O3S
reactant | N-(3-amino-phenyl)-propionamide | NC=1C=C(C=CC1)NC(CC)=O | C9H12N2O
reactant | cyclopentanecarbaldehyde | C1(CCCC1)C=O | C6H10O
reactant | (2-amino-thiazol-5-ylsulfanyl)acetic acid ethyl ester | C(C)OC(CSC1=CN=C(S1)N)=O | C7H10N2O2S2
product | {2-[3-Cyclopentylmethyl-3-(3-propionylamino-phenyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid | C1(CCCC1)CN(C(NC=1SC(=CN1)SCC(=O)O)=O)C1=CC(=CC=C1)NC(CC)=O | C21H26N4O4S2
